US04200628
To a solution of 1.0 g. (2.54 mmoles) of 1-diphenylmethyl-3-toluenesulfonylazetidine in 10 ml of dimethylsulfoxide is added 547 mg (8.4 mmoles; 3.3 equivalents) of potassium cyanide, and the mixture is heated to 100° C. for 15 minutes. After cooling, the mixture is mixed with water and extracted with ether. The extract is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is dissolved in ether, treated with active carbon, and filtered. The filtrate is evaporated to yield 435 mg of 1-diphenylmethyl-3-cyanoazetidine having mp. 153° to 154° C. as needles in 69% yield. From the mother liquor, the same product having mp. 149° to 152° C. is obtained in 6.3% yield. Total yield is 75.3%. The product is recrystallized from ether to yield the pure product having mp. 158° to 159° C.

reactant | 1-diphenylmethyl-3-toluenesulfonylazetidine | 2.54 mmoles | C1(=CC=CC=C1)C(N1CC(C1)S(=O)(=O)C=1C(=CC=CC1)C)C1=CC=CC=C1 | C23H23NO2S
reactant | potassium cyanide | 8.4 mmoles, 547 mg, 3.3 equivalents | [C-]#N.[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-diphenylmethyl-3-cyanoazetidine | 435 mg, 69% yield | C1(=CC=CC=C1)C(N1CC(C1)C#N)C1=CC=CC=C1 | C17H16N2
